US09120804B2
3,3-dimethyl-6-[8-(1,3,5-trimethyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-1,3-dihydro-indol-2-one (“C68”)
8-(1,3,5-Trimethylpyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-amine, synthesized by reaction of 8-chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine with (1,3,5-trimethylpyrazol-4-yl)boronic acid following procedure 1, is coupled with 6-chloro-3,3-dimethyl-1,3-dihydro-indol-2-one under Buchwald Hartwig conditions using general procedure 2.

reactant | 8-(1,3,5-Trimethylpyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-amine | CN1N=C(C(=C1C)C=1C=2N(C=CN1)N=C(N2)N)C | C11H13N7
reactant | 8-chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine | ClC=1C=2N(C=CN1)N=C(N2)N | C5H4ClN5
reactant | (1,3,5-trimethylpyrazol-4-yl)boronic acid | CN1N=C(C(=C1C)B(O)O)C | C6H11BN2O2
reactant | 6-chloro-3,3-dimethyl-1,3-dihydro-indol-2-one | ClC1=CC=C2C(C(NC2=C1)=O)(C)C | C10H10ClNO
product | 3,3-dimethyl-6-[8-(1,3,5-trimethyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-1,3-dihydro-indol-2-one | CC1(C(NC2=CC(=CC=C12)NC1=NN2C(C(=NC=C2)C=2C(=NN(C2C)C)C)=N1)=O)C | C21H22N8O
